US06310070B1
2.59 g (12 mmol) of 4-amino-1-benzyl-5-imidazole carboxamide prepared in Reference Example 2 was dissolved in 200 ml of N,N-dimethylformamide. 2.52 ml (18 mmol) of triethylamine and 2.5 ml (18 mmol) of propionic anhydride were added to the solution while cooling, followed by stirring overnight. The reaction solution was concentrated under vacuum, then 5% aqueous solution of sodium hydrogencarbonate was added to the concentrate to precipitate a crude product. The precipitate was collected by filtration using a funnel equipped with a glass filter, washed with 5% aqueous solution of sodium hydrogencarbonate and distilled water, and dried under vacuum to obtain a crude product. This crude product was purified by suspension in hot methanol to obtain 2.33 g of 1-benzyl-4-propanoylamino-5-imidazolecarboxamide (yield 62%).

reactant | 4-amino-1-benzyl-5-imidazole carboxamide | 12 mmol, 2.59 g | NC=1N=CN(C1C(=O)N)CC1=CC=CC=C1 | C11H12N4O
reactant | triethylamine | 18 mmol, 2.52 ml | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 18 mmol, 2.5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-4-propanoylamino-5-imidazolecarboxamide | 2.33 g, yield 62% | C(C1=CC=CC=C1)N1C=NC(=C1C(=O)N)NC(CC)=O | C14H16N4O2
